US05441971
A mixture of 5-[4-[2-(5-ethyl-2-pyridyl)-2-hydroxyethoxy]benzyl]-2,4-thiazolidinedione. 1/2 C2H5OH (396 mg), acetic anhydride (1.5 ml) and dimethylsulfoxide (4 ml) was stirred at room temperature for 5 hours and then poured into water. The mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried over magnesium sulfate and the solvent was distilled off. The oily residue was subjected to silica gel chromatography. A fraction eluted with chloroform-methanol (100:1, v/v) gave 5-[4-[2-(5-ethyl-2-pyridyl)-2-oxoethoxy]benzyl]-2,4-thiazolidinedione (75 mg, yield: 20%). This was recrystallized from ethyl acetate-hexane to obtain colorless prisms, m.p. 148°-149° C.

reactant | 5-[4-[2-(5-ethyl-2-pyridyl)-2-hydroxyethoxy]benzyl]-2,4-thiazolidinedione | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)O | C19H20N2O4S
reactant | C2H5OH | 396 mg | C(C)O | C2H6O
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 5-[4-[2-(5-ethyl-2-pyridyl)-2-oxoethoxy]benzyl]-2,4-thiazolidinedione | 75 mg, yield: 20% | C(C)C=1C=CC(=NC1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C19H18N2O4S
